US05691364
In a manner similar to Example 2 above, 2,6-bis(3-amidinophenoxy)pyridine-3-carboxylic acid, ethyl ester (0.20 g, 0.31 mmol) was dissolved in 5M HCl and heated for 2 hours at 80° C. The solvent was removed in vacuo to give 2,6-bis(3-amidinophenoxy)pyridine-3-carboxylic acid, dihydrochloride; NMR (DMSO-d6) 9.5 (br s,4), 9.35 (br s,4), 8.45 (d,1), 7.7 (m,2), 7.6 (m,2), 7.5 (m,4), 6.95 (d,1) ppm.

reactant | 2,6-bis(3-amidinophenoxy)pyridine-3-carboxylic acid, ethyl ester | 0.31 mmol, 0.20 g | C(N)(=N)C=1C=C(OC2=NC(=CC=C2C(=O)OCC)OC2=CC(=CC=C2)C(N)=N)C=CC1 | C22H21N5O4
reactant | HCl | 5M | Cl | ClH
product | 2,6-bis(3-amidinophenoxy)pyridine-3-carboxylic acid, dihydrochloride | Cl.Cl.C(N)(=N)C=1C=C(OC2=NC(=CC=C2C(=O)O)OC2=CC(=CC=C2)C(N)=N)C=CC1 | InChI=1S/C20H17N5O4.2ClH/c21-17(22)11-3-1-5-13(9-11)28-16-8-7-15(20(26)27)19(25-16)29-14-6-2-4-12(10-14)18(23)24;;/h1-10H,(H3,21,22)(H3,23,24)(H,26,27);2*1H
